US07173004B2
A stirred slurry of [4-cyclopropane-sulfonylaminocarbonyl-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester (1.20 g, 1.7 mmol) was treated with 4N HCl/dioxane (Aldrich)(10 mL) for 4 h. The reaction mixture was concentrated in vacuo to give 1.10 g (92%) of cyclopropanesulfonic acid [14-amino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carbonyl]-amide bis hydrochloride as a white solid: LC-MS (Method B, retention time: 1.39 min), MS m/z 596 (M++1–2HCl).

reactant | [4-cyclopropane-sulfonylaminocarbonyl-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester | 1.7 mmol, 1.20 g | C(C)(C)(C)OC(NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1CC1)=O | C35H45N5O8S
reactant | HCl dioxane | 4N, 10 mL | Cl.O1CCOCC1
product | cyclopropanesulfonic acid [14-amino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carbonyl]-amide bis hydrochloride | 1.10 g, 92% | Cl.Cl.NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1CC1 | InChI=1S/C30H37N5O6S.2ClH/c31-24-11-5-3-1-2-4-9-20-17-30(20,29(38)34-42(39,40)22-12-13-22)33-26(36)25-16-21(18-35(25)28(24)37)41-27-23-10-7-6-8-19(23)14-15-32-27;;/h4,6-10,14-15,20-22,24-25H,1-3,5,11-13,16-18,31H2,(H,33,36)(H,34,38);2*1H
